US08609688B2
3-{3-[4-(1-Aminocyclobutyl)phenyl]-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine trihydrochloride
tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate (62.1 mg, 0.0965 mmol) was dissolved in DCM (1 mL)-MeOH (1 mL). 4M HCl/dioxane (1 mL) was added to the mixture and stirred at room temperature for 1.25 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (54.8 mg, 87.0%) as yellow solid.

reactant | tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate | 0.0965 mmol, 62.1 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CC1CCC(C2)O1)C=1C(=NC=CC1)N)=O | C38H41N7O3
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
product | 3-{3-[4-(1-Aminocyclobutyl)phenyl]-5-[3-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine trihydrochloride | 54.8 mg, 87.0% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CC1CCC(C2)O1)C=1C(=NC=CC1)N | InChI=1S/C33H33N7O.3ClH/c34-30-27(6-2-17-36-30)31-38-29-14-13-28(21-4-1-5-24(18-21)39-19-25-11-12-26(20-39)41-25)37-32(29)40(31)23-9-7-22(8-10-23)33(35)15-3-16-33;;;/h1-2,4-10,13-14,17-18,25-26H,3,11-12,15-16,19-20,35H2,(H2,34,36);3*1H
